US06696473B2
Preparation of 3-[3-Butyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]benzonitrile
To a 8 mL vial was added 3-(3-butyl-4-oxothiazolidin-2-ylideneamino)benzonitrile (55 mg, 0.20 mmol), 3-methyl-2-(methylthio)benzothiazol-3-ium p-toluenesulfonate (73 mg, 0.20 mmol), anhydrous MeCN (2 mL) and TEA (70 μL, 0.50 mmol). The reaction mixture was first Warmed to 50° C. and the resulting solution was allowed to stir at room temperature for 16 h. The product mixture was concentrated under reduced pressure, chromatographed (silica gel, 1:99 MeOH/DCM) and then recrystallized from MeCN to give the title product (11.8 mg) as a yellow solid. 1H-NMR (CDCl3): δ 7.52 (1H, dd), 7.38-7.48 (2H, m), 7.32-7.37 (2H, m), 7.25 (1H, m), 7.18 (1H, m), 7.06 (1H, d), 3.96 (2H, t), 3.75 (3H, s), 1.77 (2H, m), 1.44 (2H, m), 0.98 (3H, t); MS(ESI): 421 (MH+).

reactant | 3-(3-butyl-4-oxothiazolidin-2-ylideneamino)benzonitrile | 0.20 mmol, 55 mg | C(CCC)N1C(SCC1=O)=NC=1C=C(C#N)C=CC1 | C14H15N3OS
reactant | 3-methyl-2-(methylthio)benzothiazol-3-ium p-toluenesulfonate | 0.20 mmol, 73 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C[N+]1=C(SC2=C1C=CC=C2)SC
solvent | MeCN | 2 mL | CC#N | C2H3N
product | 3-[3-Butyl-5-(3-methyl-3H-benzothiazol-2-ylidene)-4-oxothiazolidin-2-ylideneamino]benzonitrile | 11.8 mg | C(CCC)N1C(SC(C1=O)=C1SC2=C(N1C)C=CC=C2)=NC=2C=C(C#N)C=CC2 | C22H20N4OS2
